US05314887
Part A: 2-(5-Chloropentyloxy)benzaldehyde
To a solution of 100 g (0.82 mol) of salicylaldehyde in 2000 ml of iPrOH was added 228 g (1.23 mol) of 1-bromo-5-chloro-pentane, followed by 113 g (0.82 mol) of potassium carbonate. The reaction was refluxed under nitrogen and followed by TLC. After cooling to room temperature, the mixture was filtered and the filtrate was concentrated under reduced pressure to remove all solvent. The liquid residue was purified by fractional distillation under reduced pressure: 1st fraction: 45°-50° C., 0.4 mm Hg [Br(CH2)5Cl] 2nd fraction: 159.8 g (86% yield), 145°-150° C., 0.3 mm Hg colorless liquid product. The remaining residue proved to a dialdehyde by-product. TLC: Starting aldehyde Rf=0.46 (30% ether/pet. ether). Desired aldehyde: Rf=0.35. By-product: Rf=0.15.

reactant | salicylaldehyde | 0.82 mol, 100 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 1-bromo-5-chloro-pentane | 1.23 mol, 228 g | BrCCCCCCl | C5H10BrCl
reactant | potassium carbonate | 0.82 mol, 113 g | C([O-])([O-])=O.[K+].[K+]
solvent | iPrOH | 2000 ml | CC(C)O | C3H8O
product | 2-(5-Chloropentyloxy)benzaldehyde | 86% yield | ClCCCCCOC1=C(C=O)C=CC=C1 | C12H15ClO2
